US08378114B2
To a suspension of lithium aluminum hydride (0.33 g, 8.9 mmol) in tetrahydrofuran (20 ml) was added dropwise a solution of 2,4-dichloro-1-(2-nitro-1-propenyl)benzene (1.0 g, 4.3 mmol) in tetrahydrofuran (5 ml) at room temperature. Refluxing started slowly and the mixture was heated under reflux for 1 hr thereafter. The mixture was allowed to cool to room temperature and water (2 ml) was added under cooling in an ice bath. A 1N aqueous sodium hydroxide solution (5 ml) was added, and the insoluble material was removed by filtration through celite. Water was added to the filtrate, and the mixture was extracted with methyl t-butyl ether. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give crude [2-(2,4-dichlorophenyl)-1-methylethyl]amine (yield; 0.8 g, 91%).

reactant | lithium aluminum hydride | 8.9 mmol, 0.33 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,4-dichloro-1-(2-nitro-1-propenyl)benzene | 4.3 mmol, 1.0 g | ClC1=C(C=CC(=C1)Cl)C=C(C)[N+](=O)[O-] | C9H7Cl2NO2
reactant | water | 2 ml | O | H2O
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | [2-(2,4-dichlorophenyl)-1-methylethyl]amine | yield; 0.8 g, 91% | ClC1=C(C=CC(=C1)Cl)CC(C)N | C9H11Cl2N
